data/rdb19/train.csv
rxn,smiles,ea
873,[C:19]([C:20]([C:21]([H:22])[c:23]1[c:24]([H:34])[c:25]([H:35])[c:26]([H:36])[c:27]([H:37])[c:28]1[H:38])([H:32])[H:33])([H:29])([H:30])[H:31].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:19]([C:20](=[C:21]([H:22])[c:23]1[c:24]([H:34])[c:25]([H:35])[c:26]([H:36])[c:27]([H:37])[c:28]1[H:38])[H:32])([H:29])([H:30])[H:31].[C:1]([H:8])([H:9])([H:10])[H:33].[C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12],84.84825674403692
4974,[C:1]([C:2]([C:3]([H:4])([O:5][C:6]([H:12])[H:13])[C:18]([N:17]([C:16](=[C:15]([H:20])[H:21])[H:22])[H:23])([O:19][H:14])[H:24])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:4])([N:17]([C:16](=[C:15]([H:20])[H:21])[H:22])[H:23])[C:18](=[O:19])[H:24])([H:10])[H:11])([H:7])([H:8])[H:9].[O:5][C:6]([H:12])([H:13])[H:14],64.12743225559825
92,[C:12]([O:13][C:14](=[O:15])[C:16](=[C:17]([H:22])[H:23])[C:18]([H:24])([H:25])[H:26])([H:19])([H:20])[H:21].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]#[N:5])[C:16]([C:14]([O:13][C:12]([H:19])([H:20])[H:21])=[O:15])([C:17]([H:22])[H:23])[C:18]([H:24])([H:25])[H:26])([H:6])([H:7])[H:8],21.747805004008114
1678,[C:15](=[C:16]([c:17]1[c:18]([H:26])[c:19]([H:27])[c:20]([H:28])[c:21]([H:29])[c:22]1[H:30])[H:25])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:1]([C:2](=[C:3]([H:4])[H:5])[C:6](=[O:7])[N:8]([H:13])[H:14])([H:9])([H:10])[H:11].[H:12][C:17]1([C:16](=[C:15]([H:23])[H:24])[H:25])[C:18]([H:26])[C:19]([H:27])=[C:20]([H:28])[C:21]([H:29])=[C:22]1[H:30],38.913347698922735
3646,[C:17]([C:18](=[O:19])[O:20][C:21](=[C:22]([H:27])[H:28])[H:26])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])[H:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])=[C:5]([H:6])[H:7])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][C:22]([C:21]([O:20][C:18]([C:17]([H:23])([H:24])[H:25])=[O:19])[H:26])([H:27])[H:28],32.706823943473864
3,[C:1]([C:2]([H:5])([H:6])[O:7][O:8][H:9])([H:3])([H:4])[O:10]>>[C:1]([C:2]([H:5])([H:6])[O:7][O:8])([H:3])([H:4])[O:10][H:9],2.607753388787387
1858,[C:15]([C:16](=[O:17])[O:18][C:19](=[C:20]([H:25])[H:26])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:15]([C:16](=[O:17])[O:18][C:19](=[C:20][H:25])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:26])([H:11])[H:12])([H:8])([H:9])[H:10],31.791290174413007
5015,[C:11]([C:12]([C:13]([H:14])[O:15][C:16]([H:22])([H:23])[H:24])([H:20])[H:21])([H:17])([H:18])[H:19].[C:1]([O:2][C:3](=[C:4]([H:9])[H:10])[H:8])([H:5])([H:6])[H:7]>>[C:1]([O:2][C:13]([C:12]([C:11]([H:17])([H:18])[H:19])([H:20])[H:21])([H:14])[O:15][C:16]([H:22])([H:23])[H:24])([H:5])([H:6])[H:7].[C:3](=[C:4]([H:9])[H:10])[H:8],62.18818734836532
4274,[C:16]([O:17][C:18]([C:19]([H:27])([H:28])[H:29])[C:20]([H:21])([H:22])[H:26])([H:23])([H:24])[H:25].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:16]([O:17][C:18]([C:19]([H:27])([H:28])[H:29])=[C:20]([H:21])[H:22])([H:23])([H:24])[H:25].[C:1]([O:2][C:3](=[O:4])[C:5]=[C:6]([H:11])[H:12])([H:8])([H:9])[H:10].[C:7]([H:13])([H:14])([H:15])[H:26],75.03372891660547
5387,[C:17]([C:18]([C:19]([H:20])[H:21])([N:22]([C:23](=[O:24])[H:30])[H:29])[H:28])([H:25])([H:26])[H:27].[C:1](=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10]>>[C:1]([C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])([H:10])[C:19]([C:18]([C:17]([H:25])([H:26])[H:27])([N:22]([C:23](=[O:24])[H:30])[H:29])[H:28])([H:20])[H:21],12.911285891372245
314,[C:4]([O:5][C:6](=[O:7])[C:8](=[C:9]([H:14])[H:15])[C:10]([H:16])([H:17])[H:18])([H:11])([H:12])[H:13].[O:1]([O:2])[H:3]>>[C:8](=[C:9]([H:14])[H:15])[C:10]([H:16])([H:17])[H:18].[O:1]([O:2][C:6]([O:5][C:4]([H:11])([H:12])[H:13])=[O:7])[H:3],41.02448435587576
2104,[C:11]([C:12]([C:13]([H:14])[O:15][C:16]([H:22])([H:23])[H:24])([H:20])[H:21])([H:17])([H:18])[H:19].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[C:11]([C:12](=[C:13]([H:14])[O:15][C:16]([H:22])([H:23])[H:24])[H:20])([H:17])([H:18])[H:19].[N:1]([C:2](=[O:3])[C:4]([C:5]([H:9])([H:10])[H:21])[H:8])([H:6])[H:7],27.00133142195409
2243,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9]([O:10][C:11](=[O:12])[C:13](=[C:14]([H:21])[H:22])[H:20])([H:18])[H:19])([H:15])([H:16])[H:17]>>[C:1]([C:2]([H:3])([H:4])[O:12][C:11]([O:10][C:9]([C:8]([H:15])([H:16])[H:17])([H:18])[H:19])[C:13](=[C:14]([H:21])[H:22])[H:20])([H:5])([H:6])[H:7],27.91399504762376
